US06913898B2
Luminometric Method for Detecting the Activity of Soluble Guanylate Cyclase
100 μl of reaction mixture should contain 50 mM TEA buffer (pH 7.4), 3 mM MgCl2, 3 mM GSH, 0.1 mM GTP, 1 mM IBMX (isobutylmethylxanthine), 0.2 mM NAD+, 0.4 mU of NAT, suitably diluted sGC enzyme solution (isolated from bovine lung as described by P. Humbert et al., Methods of Enzymology 195, 384-391 (1991)) and the test substance or solvent (for determining the basal enzyme activity). The reaction is started by adding the sGC. The reaction mixture is incubated at room temperature for 60 min and then stopped by cooling in ice and adding 50 mM EDTA, pH 8.0. For the ATP determination, 20 μl of 100 mM MgCl2 and 50 μl of ATP assay reagent (0.035 mM luciferin and 10,000 U/mL luciferase in 62.5 mM TRIS acetate pH 7.75, 1.9 mM EDTA, 0.05 mM DTT, 0.1% BSA) are added. The relative luminescence units (RLU) can be measured in a microtiter plate luminometer.

reactant | EDTA | 50 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | MgCl2 | 100 mM, 20 μl | [Mg+2].[Cl-].[Cl-]
reactant | ATP | 50 μl | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | luciferin | 0.035 mM | C1[C@@H](N/C(=C/2\N=C3C=CC(=O)C=C3S2)/S1)C(=O)O | C11H8N2O3S2
reactant | DTT | 0.05 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
solvent | TRIS acetate | 62.5 mM, pH 7.75 | CC(=O)O.C(C(CO)(CO)N)O
product | Guanylate | C1=NC2=C(N1[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O)NC(=NC2=O)N | C10H14N5O8P
